US04748165
A mixture of methyl 5-(4-[2-propylguanidino]pyrimid-2-yl)valerimidate (0.4 g.) and ammonium chloride (0.076 g.) in MeOH (20 ml.) was stirred at ambient temperature for 1 hour and the solvent evaporated in vacuo to give 5-(4-[2-propylguanidino]pyrimid-2-yl)valeramidine hydrochloride (0.4 g.) as an oil which was used without further purification.

reactant | methyl 5-(4-[2-propylguanidino]pyrimid-2-yl)valerimidate | 0.4 g | C(CC)N=C(NC1=NC(=NC=C1)CCCCC(OC)=N)N | C14H24N6O
reactant | ammonium chloride | 0.076 g | [Cl-].[NH4+]
solvent | MeOH | 20 ml | CO | CH4O
product | 5-(4-[2-propylguanidino]pyrimid-2-yl)valeramidine hydrochloride | 0.4 g | Cl.C(CC)N=C(NC1=NC(=NC=C1)CCCCC(=N)N)N | InChI=1S/C13H23N7.ClH/c1-2-8-18-13(16)20-12-7-9-17-11(19-12)6-4-3-5-10(14)15;/h7,9H,2-6,8H2,1H3,(H3,14,15)(H3,16,17,18,19,20);1H
